US07189739B2
E. Preparation of 1-Acryloyl-(4-benzylpiperidinyl)-indole-5-carboxamide
0.318 g (1 mmol) of (4-benzylpiperidinyl)-indole-5-carboxamide was taken in 15 mL dry acetone and was reacted with 0.2 g (5 mmol) of powdered KOH for 15 Min. The mixture was cooled in ice and 0.225 mg (2.5 mmol) of acryloyl chloride was added in one lot. Stirring continued at 0° C. for 20 Min., after which the reaction was further stirred at room temp. for 1 h. the solvent was removed in vacuo and the residue was extracted with ethyl acetate from water. The extract was dried and evaporated. TLC (ethyl acetate-hexane) and mass spectrum (M+ at 372) confirmed the desired product. This product was used without further purification for the next step.

reactant | (4-benzylpiperidinyl)-indole-5-carboxamide | 1 mmol, 0.318 g | C(C1=CC=CC=C1)C1CCN(CC1)C=1NC2=CC=C(C=C2C1)C(=O)N | C21H23N3O
reactant | KOH | 5 mmol, 0.2 g | [OH-].[K+]
reactant | acryloyl chloride | 2.5 mmol, 0.225 mg | C(C=C)(=O)Cl | C3H3ClO
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | 1-Acryloyl-(4-benzylpiperidinyl)-indole-5-carboxamide | C(C=C)(=O)N1C(=CC2=CC(=CC=C12)C(=O)N)N1CCC(CC1)CC1=CC=CC=C1 | C24H25N3O2
